US04980470
To 3-methoxy-2,4,5-trifluorobenzoic acid (9.4 g) was added thionyl chloride (50 ml), the mixture was refluxed for 3 hours and then concentrated. The residue was purified by distillation under reduced pressure to give 3-methoxy-2,4,5-trifluorobenzoyl chloride (8.86 g) as yellow oil, bp 108°-112° C./20 mmHg.

reactant | 3-methoxy-2,4,5-trifluorobenzoic acid | 9.4 g | COC=1C(=C(C(=O)O)C=C(C1F)F)F | C8H5F3O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-methoxy-2,4,5-trifluorobenzoyl chloride | 8.86 g | COC=1C(=C(C(=O)Cl)C=C(C1F)F)F | C8H4ClF3O2
